US09388161B2
A mixture of (S)-5-(1-allyl-1H-benzo[d]imidazol-2-yloxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinoline (0.115 g, 0.29 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.269 g, 1.15 mmol), potassium carbonate (0.118 g, 0.85 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.023 g, 0.03 mmol) in 1,4-dioxane (10 mL) and water (3 mL) stirred for 3 h at 100° C. The reaction mixture was cooled to room temperature, filtered through a short pad of Celite and concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 1:2, ethyl acetate/petroleum ether) to afford (S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-((1-(prop-1-en-1-yl)-1H-benzo[d]imidazol-2-yl)oxy)-1,2,3,4-tetrahydroquinoline (0.106 g, 86%) as a red oil which is mixture of E and Z isomers. MS (ESI, pos. ion) m/z 426 [M+H]+.

reactant | (S)-5-(1-allyl-1H-benzo[d]imidazol-2-yloxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinoline | 0.29 mmol, 0.115 g | C(C=C)N1C(=NC2=C1C=CC=C2)OC2=C1CC[C@@H](NC1=CC=C2Br)C | C20H20BrN3O
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.15 mmol, 0.269 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | potassium carbonate | 0.85 mmol, 0.118 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.03 mmol, 0.023 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-((1-(prop-1-en-1-yl)-1H-benzo[d]imidazol-2-yl)oxy)-1,2,3,4-tetrahydroquinoline | 0.106 g, 86% | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](NC2=CC1)C)OC1=NC2=C(N1C=CC)C=CC=C2 | C26H27N5O
